US04113877
To a fine suspension of 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol (9 g., 0.03 mole) in dry N,N-dimethylformamide (20 ml.) at 20°-25° C. and with vigorous stirring is added dropwise trifluoroacetic anhydride (12.6 g.) 0.06 mole) over 15 to 20 minutes. The resulting clear solution is stirred at ambient temperature for 1 hour and poured into water (500 ml.) providing a heterogeneous mixture which is stirred at 20°-25° C. for 2 hours. The insoluble solid is collected, washed with water and crystallized from acetic acid-water (5:2; v:v) to give 2,2,2-trifluoro-N-[2-hydroxy-3-iodo-5-(1,1-dimethylethyl)phenylmethyl]acetamide as a colorless solid (11 g., 91%), m.p. 118°-119° C.

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol | 0.03 mole, 9 g | NCC1=C(C(=CC(=C1)C(C)(C)C)I)O | C11H16INO
reactant | trifluoroacetic anhydride | 0.06 mole, 12.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 500 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2,2,2-trifluoro-N-[2-hydroxy-3-iodo-5-(1,1-dimethylethyl)phenylmethyl]acetamide | FC(C(=O)NCC1=C(C(=CC(=C1)C(C)(C)C)I)O)(F)F | C13H15F3INO2
